US06953790B2
Step A. 4-Amino-3-[(1-benzylpiperidin-4-yl)amino)pyridine
A mixture of 3,4-diaminopyridine (1.1 g, 10.1 mmol), 1-benzyl-4-piperidone (3.2 g, 16.9 mmol) sodium triacetoxyborohydride (4.0 g, 18.9 mmol), and acetic acid (10.7 mL) in dichloroethane (10 mL) was stirred for about 6 days at room temperature. The reaction was concentrated to near dryness, and partitioned between chloroform (5×50 mL) and 1N sodium hydroxide (50 mL). The organic phase was dried over magnesium sulfate and concentrated to give the title compound (2.8 g). MS 283 (M+1).

reactant | 3,4-diaminopyridine | 10.1 mmol, 1.1 g | NC=1C=NC=CC1N | C5H7N3
reactant | 1-benzyl-4-piperidone | 16.9 mmol, 3.2 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | acetic acid | 10.7 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 4-Amino-3-[(1-benzylpiperidin-4-yl)amino)pyridine | 2.8 g | NC1=C(C=NC=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C17H22N4
